US04579848
3-(Difluoromethoxy)benzonitrile
A solution of 4.95 g of 3-(difluoromethoxy)benzaldehyde oxime in 50 ml of dry tetrahydrofuran was treated with 4.30 g of N,N-carbonyldiimidazole. After the effervescence had subsided, the reaction solution was allowed to stand overnight, then concentrated in vacuo. The residue was taken up in 75 ml of water and the pH adjusted to 4 with hydrochloric acid. The nitrile was extracted into ether, dried over sodium sulfate and concentrated, giving a yellow oil which upon distillation gave 2.45 g of the desired compound as a colorless oil, bp 73°-75° C./0.3 mm.

reactant | 3-(difluoromethoxy)benzaldehyde oxime | 4.95 g | FC(OC=1C=C(C=NO)C=CC1)F | C8H7F2NO2
reactant | N,N-carbonyldiimidazole | 4.30 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(Difluoromethoxy)benzonitrile | 2.45 g | FC(OC=1C=C(C#N)C=CC1)F | C8H5F2NO
